US08283476B2
3-Benzyl-2-pyridin-4-yl-2H-indazole-6-carboxylic acid tert-butyl ester
The reaction was performed according to example 1 using 156.4 mg 3-chloro-4-phenylethynyl-benzoic acid tert-butyl ester, 101.9 mg 4-hydrazinopyridine hydrochloride (1.4 equiv.) and 456.2 mg Cs2CO3 (2.8 equiv.) with a reaction time of 2 hours at 110° C. This afforded 104.7 mg (54%) of the title compound. 1H-NMR (DMSO-d6) δ 1.58 (s, 9H), 4.66 (s, 2H), 6.98 (d, 2H, J=7.4 Hz), 7.15-7.24 (m, 3H), 7.51 (dd, 1H, J=8.8, 1.3 Hz), 7.69-7.73 (m, 3H), 8.30 (s, 1H), 8.77 (dd, 2H, J=4.6, 1.6 Hz); HRMS (FAB): Calculated for C24H24N3O2 (M+H+) 386.1869, found 386.1864.

reactant | 3-chloro-4-phenylethynyl-benzoic acid tert-butyl ester | 156.4 mg | C(C)(C)(C)OC(C1=CC(=C(C=C1)C#CC1=CC=CC=C1)Cl)=O | C19H17ClO2
reactant | 4-hydrazinopyridine hydrochloride | 101.9 mg, 1.4 equiv. | Cl.N(N)C1=CC=NC=C1
reactant | Cs2CO3 | 456.2 mg, 2.8 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 3-Benzyl-2-pyridin-4-yl-2H-indazole-6-carboxylic acid tert-butyl ester | 104.7 mg, 54% | C(C)(C)(C)OC(=O)C=1C=CC2=C(N(N=C2C1)C1=CC=NC=C1)CC1=CC=CC=C1 | C24H23N3O2
